US06255301B1
(i) Benzyl 4-benzyloxy-3-methoxyphenylacetate
Cs2CO3 (17.88 g; 54.9 mmol) was added to a solution of homovanillic acid (2.0 g; 11 mmol) in CH3CN, whereafter BnBr (4.3 g; 24.15 mmol) was added dropwise over 10 minutes. The mixture was refluxed overnight, filtered through Hyflo and concentrated. The resulting mixture was dissolved in EtOAc (100 mL), water (30 mL) was added, and the aqueous layer was separated. The organic phase was washed with citric acid solution (5%, 1×20 mL) and brine, dried (Na2SO4), and evaporated to yield 4.25 g (quant.) of the sub-title compound.

reactant | Cs2CO3 | 54.9 mmol, 17.88 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | homovanillic acid | 11 mmol, 2.0 g | C(CC1=CC(OC)=C(O)C=C1)(=O)O | C9H10O4
reactant | BnBr | 24.15 mmol, 4.3 g | C1=CC=C(C=C1)CBr | C7H7Br
solvent | CH3CN | CC#N | C2H3N
product | Benzyl 4-benzyloxy-3-methoxyphenylacetate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)OCC1=CC=CC=C1)OC | C23H22O4
